US06133460
A slurry of 7-hydroxy-4,8-dimethyl-3-phthalimidomethylcoumarin (4.00 g, 11.5 mmol), potassium carbonate (4.5 g, 36.9 mmol), chloroacetone (1 mL, 11.5 mmol) and acetone (200 mL) were refluxed overnight. After the solution was allowed to cool to room temperature, CH2Cl2 (200 mL) was added and the resulting solid was filtered off. The remaining solution was cold decolorized with charcoal and the solvent evaporated. The resulting solid was stirred with water, vacuum filtered, and washed with water. After air drying, 4,8-dimethyl-7-(2-oxo)propyloxy-3-(phthalimidomethyl)coumarin (4.06 g, 87.1% ) was obtained as an off-white solid. 1H NMR (CDCl3): δ 7.66-7.83 (m, 4H), 7.48 (d, J=8.8 Hz, 1H), 6.65 (d, J=8.8 Hz, 1H), 4.91 (s, 2H), 4.62 (s, 2H), 2.59 (s, 3H), 2.35 (s, 3H), 2.32 (s, 3H).

reactant | 7-hydroxy-4,8-dimethyl-3-phthalimidomethylcoumarin | 11.5 mmol, 4.00 g | OC1=CC=C2C(=C(C(OC2=C1C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O)C | C20H15NO5
reactant | potassium carbonate | 36.9 mmol, 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 11.5 mmol, 1 mL | ClCC(C)=O | C3H5ClO
reactant | acetone | 200 mL | CC(=O)C | C3H6O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4,8-dimethyl-7-(2-oxo)propyloxy-3-(phthalimidomethyl)coumarin | 4.06 g, 87.1% | CC1=C(C(OC2=C(C(=CC=C12)OCC(C)=O)C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C23H19NO6
